US07585881B2
4-(5-{2-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]propyl}-4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridine
n-BuLi (210 ml, 2.5 M in hex., 0.52 mmol) was added dropwise to a solution of 4-(4-cyclopropyl-5-methyl-4H-1,2,4-triazol-3-yl)pyridine (80 mg, 0.4 mmol) in THF (10 ml) at −78° C. under an atm. of nitrogen. After stirring for 15 min 3-(1-Bromo-ethyl)-5-(3-chloro-phenyl)-[1,2,4]oxadiazole (115 mg, 0.4 mmol) in THF (2 ml) was added. The mixture was stirred for 2 h at −78° C. and then at r.t. for 1 h. The solvent was removed under reduced pressure and the desired product was obtained by prep. HPLC in 20 mg yield. 1H NMR: 0.7 (m, 2 H) 1.2 (ddd, 2 H) 1.6 (d, 3 H) 3.2 (dd, 1 H) 3.3 (ddd, 1 H) 3.6 (dd, 1 H) 3.9 (m, 1 H) 7.5 (t, 1 H) 7.6 (m, 1 H) 7.7 (m, 2 H) 8.0 (m, 1 H) 8.1 (t, 1 H) 8.7 (m, 2 H)

reactant | n-BuLi | 0.52 mmol, 2.5 M, 210 ml | [Li]CCCC
reactant | 4-(4-cyclopropyl-5-methyl-4H-1,2,4-triazol-3-yl)pyridine | 0.4 mmol, 80 mg | C1(CC1)N1C(=NN=C1C)C1=CC=NC=C1 | C11H12N4
reactant | 3-(1-Bromo-ethyl)-5-(3-chloro-phenyl)-[1,2,4]oxadiazole | 0.4 mmol, 115 mg | BrC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C10H8BrClN2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(5-{2-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]propyl}-4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridine | ClC=1C=C(C=CC1)C1=NC(=NO1)C(CC=1N(C(=NN1)C1=CC=NC=C1)C1CC1)C | C21H19ClN6O
